US06514971B1
A suspension of 4-chloro-6-methoxy-7-(2-methoxyethoxy)cinnoline (0.2 g, 0.74 mmol), (prepared as described for the starting material in Example 2), and 2-fluoro-5-hydroxy-4-methylaniline (126 mg 0.89 mmol) in 2-pentanol (2.5 ml) was heated at reflux for 7.5 hours. After cooling, isopropanol was added and the solid was filtered off, washed with isopropanol and ether, and dried under vacuum to give 4-(2-fluoro-5-hydroxy-4-methylanilino)-6-methoxy-7-(2-methoxyethoxy)cinnoline as the hydrochloride salt (yellow solid 196 mg, 64%).

reactant | 4-chloro-6-methoxy-7-(2-methoxyethoxy)cinnoline | 0.74 mmol, 0.2 g | ClC1=CN=NC2=CC(=C(C=C12)OC)OCCOC | C12H13ClN2O3
reactant | 2-fluoro-5-hydroxy-4-methylaniline | 0.89 mmol, 126 mg | FC1=C(N)C=C(C(=C1)C)O | C7H8FNO
reactant | isopropanol | C(C)(C)O | C3H8O
solvent | 2-pentanol | 2.5 ml | CC(CCC)O | C5H12O
product | 4-(2-fluoro-5-hydroxy-4-methylanilino)-6-methoxy-7-(2-methoxyethoxy)cinnoline | FC1=C(NC2=CN=NC3=CC(=C(C=C23)OC)OCCOC)C=C(C(=C1)C)O | C19H20FN3O4
